US07642269B2
Step 1: 3-bromo-5-nitropyridin-4-ol
4-hydroxy-3-nitropyridine (40 g, 0.285 mol) was added to 200 ml of water and then bromine (18.44 ml, 0.36 mol) was slowly added thereto at room temperature. The reaction mixture was stirred under heating for 2 hours at 50° C. and then cooled to room temperature. The resulting precipitate was filtered, washed with water, and then dried to give the titled compound as a pale yellow solid (49.8 g, 87.8%). The product was used in the subsequent step without further purification.

reactant | 4-hydroxy-3-nitropyridine | 0.285 mol, 40 g | OC1=C(C=NC=C1)[N+](=O)[O-] | C5H4N2O3
reactant | bromine | 0.36 mol, 18.44 ml | BrBr | Br2
solvent | water | 200 ml | O | H2O
product | 3-bromo-5-nitropyridin-4-ol | 49.8 g, 87.8% | BrC=1C=NC=C(C1O)[N+](=O)[O-] | C5H3BrN2O3
